US08110681B2
A mixture of ethyl 2-methyl-5-nitrobenzoate (11.5 g, 54 mmol) and 10% Pd/C (1.2 g) in ethanol (200 mL) was shaken under an atmosphere of hydrogen at 40 psi for 18 h. After this time, the mixture was filtered through diatomaceous earth and concentrated under reduced pressure to provide ethyl 5-amino-2-methylbenzoate (9.77 g, 98%) as an off-white solid: 1H NMR (300 MHz, CDCl3) δ 7.25 (d, J=2.6 Hz, 1H), 7.02 (d, J=8.1 Hz, 1H), 6.74 (d, J=8.1 Hz, 1H), 4.33 (q, J=7.2 Hz, 2H), 2.46 (s, 3H), 1.38 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-methyl-5-nitrobenzoate | 54 mmol, 11.5 g | CC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C10H11NO4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | ethyl 5-amino-2-methylbenzoate | 9.77 g, 98% | NC=1C=CC(=C(C(=O)OCC)C1)C | C10H13NO2
